US05364866
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]morpholine
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.0 gm, 13.6 mmol), 2-chloroethyl morpholine hydrochloride (4.46 gm, 29.7 mmol) and K2CO3 (7.3 gm, 2.2 eq) in acetonitrile (60 ml) was heated at reflux for 24 hr. The crude mixture was diluted with DCM and filtered. The solvent was concentrated to an oil (~ 7.1 gm). Purification on a silica gel column (55 gm, SiO2, eluted with MeOH:DCM) yielded a solid product weighing 4 gm. Recrystallization from hot ethanol yielded 2.1 gm (48%), m.p. 131°-132° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 13.6 mmol, 3.0 gm | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | 2-chloroethyl morpholine hydrochloride | 29.7 mmol, 4.46 gm | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 7.3 gm, 2.2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]morpholine | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2CCOCC2)C=C1 | C18H24FN3O2
